US04017620
Hydrolysis of 0.438 g. of ethyl 1-[3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate is hydrolyzed with sodium hydroxide in the same manner as in a) gives 1-[3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid as an oily substance. Infra red absorption spectrum (neat): 1735cm-1 (COOH), 1665cm-1 (C=O).

reactant | ethyl 1-[3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2N=C(N=C2CCl)C(=O)OCC)C=CC=C1 | C19H17Cl2N3O3S
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-[3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2N=C(N=C2CCl)C(=O)O)C=CC=C1 | C17H13Cl2N3O3S
